data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,3921,"O=S(=O)(O)[O-:1].OC1(O)CCC[O+:2]1[H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,7686,"C1=CC=C(C2(C3=CC=CC=C3)CCC[CH:1]=[C:2]2C2=CC=CC=C2)C=C1.[H:3][Br:4]|((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,3799,"CC[O+:1](S(C)(C)OC(=NC)NC)[H:2].O=P(O)(O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8112,"CC(=O)C1=CC=C[C:1]([N+](=O)[O-])([H:2])[CH+:3]1.O=S(=O)(O)[O-:4]|(4, 2);((2, 1), 3)"
train,pmechdb_split_0,0,7330,"C=CC(=O)[NH:1][H:2].[OH-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,4132,"CC(=N[OH:1])C(C)(C)C.O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,2006,"C[CH:1]=[OH+:2].C[NH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,5605,"CC(C)(C)[C-:1]1C=C[CH:2]=[CH:3]1.CC[O:4][H:5]|(1, 3);((3, 2), 5);((5, 4), 4)"
train,pmechdb_split_0,0,9676,"CC1(C)CCCC2(C)C1C(O[Si-](C)(C)(F)C(C)(C)C)C=C1C[O+:1]([Si-:2](C)(C)(F)C(C)(C)C)C([O-])C12O.CC[N+](CC)(CC)CC|((2, 1), 1)"
train,pmechdb_split_0,0,1921,"C[C:1](C)=[CH:2][O:3]C.[H:4][OH2+:5]|(3, 2);((2, 1), 4);((4, 5), 5)"
train,pmechdb_split_0,0,10091,"CCCC[OH:1].CCCC[O][Al-]([CH2]C(C)C)([CH2]C(C)C)[O+:2](CCCC)[H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,77,"CC1=CC=C(S(=O)(=O)N2C=C(C=[N:1][N-:2][S:3](=O)(=O)C3=CC=C(C)C=C3)C3=CC=CC=C32)C=C1.[Li][OH+]C(C)(C)C|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,8446,"O=S(=O)(O)[O-:1].O=[N+]([O-])[C:2]1([H:3])C=C(C(F)(F)F)O[CH+:4]1|(1, 3);((3, 2), 4)"
train,pmechdb_split_0,0,6096,"COC1=C2C(=O)C3=C(OC)C([CH2:1][Br:2])=CC=C3C(=O)C2=CC=C1.C[S+](C)[O-:3].O=C([O-])O|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,2751,"CC(=CC[C:1](C)=[O:2])[NH:3]C1=NNC=C1.CC(=O)O.O|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,2922,"CC1(C)CCCC2(C)C1C(O[Si-](C)(C)(F)C(C)(C)C)C=C1COC([OH+:1][Si-:2](C)(C)(F)C(C)(C)C)C12O.CC[N+](CC)(CC)CC.O.[OH-]|((2, 1), 1)"
train,pmechdb_split_0,0,9758,"CCC1CC[C+:1](C)[CH:2]1[H:3].[OH2:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,144,"C1CCOC1.C1COCCO1.OCC[O:1]C(O)C1=C(Cl)N=CS1.[Cl-].[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,6139,"C1=CC=C(C[O-:1])C=C1.[H:2][NH3+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,7545,"CCCC(OC)[O:1]C.F[B:2](F)F|(1, 2)"
train,pmechdb_split_0,0,2299,"C#C[C+:1]1C=C[C:2](C(=C)C2=CC=CC=C2)([H:3])[CH:4]=[CH:5]1.O=S(=O)(O)[O-:6]|(6, 3);((3, 2), 4);((4, 5), 1)"
train,pmechdb_split_0,0,6967,"CCCOC(=O)C[N:1]1[N:2]=[N:3][P:4]1(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.[OH3+]|((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,8477,"CCC(=O)O[C:1]1=[CH:2][CH:3]=[CH:4]C=C1.O=[N+:5]=[O:6]|((1, 2), 3);((3, 4), 5);((5, 6), 6)"
train,pmechdb_split_0,0,5911,"CCCC1=CC=CC([O+:1](C)[B-:2](Br)(Br)Br)=C1|((2, 1), 1)"
train,pmechdb_split_0,0,1937,"CC1CC2OC(C)(C)OCC23C(COC(=S)[S-:1])CCCC3C1(C)C1CC2CCOC2O1.[CH3:2][I:3].[H][H].[Na+]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,1575,"CC[S+:1](CC=CO)[H:2].O=S(=O)(O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,4776,"CC(C)[N-:1]C(C)C.O=C([O-])C=C(CC1=CC=CC=C1)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,9319,"CC(C)CC1=CC2CC(O)(CN)C1O2.CC1=CC2CC(O)(CN)C1O2.CCC1=CC2CC(O)(CN)C1O2.CCCC1=CC2CC(O)(CN)C1O2.CCCCCC1=CC2CC(O)(CN)C1O2.COC1=C(N)C2=C(C=C1)C1CCC3(C)C(=O)CCC3C1CC2.CS(=O)(=O)C1=CC=C(C2=CC=C(N)C=C2)C=C1.F[B-](F)(F)F.NC1=CC=CN=C1Cl.NCC1(O)CC2C=C(C3CCCCC3)C1O2.NCC1(O)CC2C=CC1O2.NCC1(O)CCCCC1.NCC1CCCCC1O.O.O=S(=O)([O-])O.O=S(=O)([O-])[O-].[Br-].[Cl-].[N:1](=[O:2])[OH2+:3].[Na+]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,9442,"CC[N:1](CC)[H:2].[NH2-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8401,"C[C+](C)C.O=C(CC1CCCCC1)C1=CC(C2=CC=CC=C2)=NN1CC[NH2+:1][C:2](=O)[O-:3].O=C([O-])C(F)(F)F|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,9693,"C1=CC2=CC=CC([NH2:1])=C2C=C1.CCN(CC)CC.ClC[C:2](Cl)=[O:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,4438,"CC(=O)[O-:1].CC(C)OC1=C(N2CC[N+:2](=[C:3]3CCC(NC(=O)OC(C)(C)C)C[CH:4]3[H:5])CC2)C=CC(F)=C1.O|(1, 5);((5, 4), 3);((3, 2), 2)"
train,pmechdb_split_0,0,6724,"C1=CC=C([NH2+]C2([O-:1])CCCCC2)C=C1.CC(=O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,8100,"C1CCOC1.CCCCCCCCC=CCCCCCCCC(=O)OCC(O)C[OH+:1][C:2](C)(C)[OH:3].O.O=C([O-])C(F)(F)F|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,9196,"COC(=O)[CH:1]=[C:2](C)[O-:3].[CH3:4][Br:5]|(3, 2);((2, 1), 4);((4, 5), 5)"
train,pmechdb_split_0,0,5720,"CC(CC(=O)C1=C(Cl)C=CC=C1)(C1=C(Cl)C=CC=C1)[O-:1].[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,9501,"C=C1CC[CH:1]([O-:2])[O:3]1.O|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,7179,"C=C=CC[B:1]1OC(C(=O)OC(C)C)C(C(=O)OC(C)C)O1.COC1=CC=C(COCC2=CCCC3C2(C)CCC(C)C3(C)CC=[O:2])C=C1|(2, 1)"
train,pmechdb_split_0,0,6950,"CCCC1CCC[CH:1]([O:2]S(=O)(=O)C2=CC=C(C)C=C2)C1OC(C)=[O:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,9246,"C1CCOC1.CCCCCCCCC=CCCCCCCCC(=O)OCC(O)COC(C)(C)[OH+:1][H:2].O.O=C(C(F)(F)F)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,1531,"C[C:1]1([OH2+:2])SCCC[S:3]1|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,1797,"CC(C)(C)C#[N+]O[Si:1](C)(C)C.CC[NH+](CC)CC.O=S(=O)(C(F)(F)F)[O-:2]|(2, 1)"
